US08871753B2
Step D: N-{3-[2-(6-Aminopyridin-2-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride
To a mixture of tert-butyl [6-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate (230 mg, 0.50 mmol) in 1,4-dioxane (1.0 mL) was added 4 M hydrogen chloride in 1,4-dioxane (5.0 mL). The resultant reaction mixture was stirred at rt for 2 hours. The reaction mixture was concentrated under vacuum to give the desired product (212 mg, 98%) as a very hydroscopic light yellow powder. LCMS for C17H16Cl2N5 (M+H)+: m/z=360.0.

reactant | tert-butyl [6-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate | 0.50 mmol, 230 mg | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC1=CC=CC(=N1)NC(OC(C)(C)C)=O)Cl | C22H23Cl2N5O2
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | N-{3-[2-(6-Aminopyridin-2-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride | 212 mg, 98% | Cl.Cl.NC1=CC=CC(=N1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl | InChI=1S/C17H15Cl2N5.2ClH/c18-14-10-21-17(19)24-16(14)23-13-5-1-3-11(9-13)7-8-12-4-2-6-15(20)22-12;;/h1-6,9-10H,7-8H2,(H2,20,22)(H,21,23,24);2*1H
